US08314098B2
(Step 2): 5-Chloro-2-(4-methoxy-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in 1,4-dioxane (5 mL), 5,7-dichloro-2-(4-methoxy-phenyl)-pyrazolo[1,5-a]pyrimidine (202 mg, 0.688 mM), then morpholine (120 μL, 1.38 mM) was added to the solution and the mixture was stirred at room temperature for one hour. The solvent was distilled off from this reaction mixture, the resulting residue was diluted with water and then extracted with methylene chloride. The extracts thus obtained were combined together and then dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting solid was washed with methanol to give the title compound (235 mg, yield: 99%).

reactant | 5,7-dichloro-2-(4-methoxy-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.688 mM, 202 mg | ClC1=NC=2N(C(=C1)Cl)N=C(C2)C2=CC=C(C=C2)OC | C13H9Cl2N3O
reactant | morpholine | 1.38 mM, 120 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-2-(4-methoxy-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 235 mg, yield: 99% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=C(C=C2)OC | C17H17ClN4O2
